US08217177B2
2) 4-((8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinolin-7-ol
The material was prepared using general method A (with 2-(7-hydroxyquinolin-4-yloxy)acetic acid hydrobromide and 1-(3-fluoro-5-(3-methylisoxazol-5-yl)pyridin-2-yl)hydrazine

reactant | 2-(7-hydroxyquinolin-4-yloxy)acetic acid hydrobromide | Br.OC1=CC=C2C(=CC=NC2=C1)OCC(=O)O
reactant | 1-(3-fluoro-5-(3-methylisoxazol-5-yl)pyridin-2-yl)hydrazine | FC=1C(=NC=C(C1)C1=CC(=NO1)C)NN | C9H9FN4O
product | 4-((8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinolin-7-ol | FC=1C=2N(C=C(C1)C1=CC(=NO1)C)C(=NN2)COC2=CC=NC1=CC(=CC=C21)O | C20H14FN5O3
